US09278978B2
G9) 6-(2-phenylethynyl)-4-(pyridin-4-yl)-5-(pyrimidin-5-yl)pyridin-2-amine
Tetrakis(triphenylphosphine)palladium(0) (30 mg, 26 μmol) is added to a mixture of 5-bromo-6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine G8 (90 mg, 0.26 mmol), pyrimidine-5-boronic acid (48 mg, 0.39 mmol), sodium carbonate (aqueous solution, 2 mol/l, 0.39 ml, 0.78 mmol) and ACN (2.4 ml) under nitrogen atmosphere at RT and is stirred at 150° C. for 1 h. The mixture is concentrated in vacuo and the product purified by NP chromatography. Yield: 72 mg (80%). HPLC-MS: M+H=350; tR=1.11 min (METHOD—5).

reactant | 5-bromo-6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine | BrC=1C(=CC(=NC1C#CC1=CC=CC=C1)N)C1=CC=NC=C1 | C18H12BrN3
reactant | pyrimidine-5-boronic acid | 0.39 mmol, 48 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | sodium carbonate | 0.78 mmol, 2 mol/l, 0.39 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 26 μmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ACN | 2.4 ml | C(C)#N | C2H3N
product | 6-(2-phenylethynyl)-4-(pyridin-4-yl)-5-(pyrimidin-5-yl)pyridin-2-amine | C1(=CC=CC=C1)C#CC1=C(C(=CC(=N1)N)C1=CC=NC=C1)C=1C=NC=NC1 | C22H15N5
